L3 (VOUT1 VDD) inductor
L2 (VDD VOUT2) inductor
L1 (VDD VOUT3) inductor
L0 (VOUT4 VDD) inductor
C3 (VOUT2 VSS) capacitor
C2 (VOUT1 VSS) capacitor
C1 (VOUT3 VSS) capacitor
C0 (VOUT4 VSS) capacitor
M8 (net24 VB1 VSS VSS) nmos4
M7 (VOUT2 VOUT4 net24 VSS) nmos4
M6 (VOUT2 VOUT1 net24 VSS) nmos4
M5 (VOUT1 VOUT3 net24 VSS) nmos4
M4 (VOUT1 VOUT2 net24 VSS) nmos4
? Missing component
M2 (VOUT3 VOUT4 net24 VSS) nmos4
M1 (VOUT4 VOUT1 net24 VSS) nmos4
M0 (VOUT4 VOUT3 net24 VSS) nmos4
